US09447091B2
N-(2′,4′-difluoro-5-(5-(1-(3-hydroxy-3-methylbutyl)-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide
The compound was prepared from 4-(4-(1-(5-amino-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-1H-benzo[d]imidazol-5-yl)-1H-pyrazol-1-yl)-2-methylbutan-2-ol (88 mg, 0.185 mmol) using the procedure of Example 2(b) and ethanesulfonyl chloride (28.6 mg, 0.370 mmol, 1.2 eq.) to give the product in 33.6% yield (35 mg)1H NMR (300 MHz, DMSO-d6): δ 10.42 (s, 1H), 8.92 (s, 1H), 8.30 (s, 1H), 8.01-7.97 (d, 2H), 7.69 (m, 3H), 7.59 (d, 2H), 7.56 (m, 2H), 7.32 (m, 1H), 4.30 (m, 2H), 3.31-3.28 (m, 4H), 1.8 (m, 2H), 1.28-1.24 (t, 3H), 1.15 (s, 6H), Calculated mass: 565.63; Observed mass: 566.2 [M+H]+ (rt: 1.40 min).

reactant | 4-(4-(1-(5-amino-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-1H-benzo[d]imidazol-5-yl)-1H-pyrazol-1-yl)-2-methylbutan-2-ol | 0.185 mmol, 88 mg | NC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)CCC(C)(O)C | C27H25F2N5O
reactant | ethanesulfonyl chloride | 0.370 mmol, 28.6 mg, 1.2 eq. | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-(2′,4′-difluoro-5-(5-(1-(3-hydroxy-3-methylbutyl)-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide | 33.6% yield | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)CCC(C)(C)O)NS(=O)(=O)CC | C29H29F2N5O3S
